US07626021B2
1-(5-Bromo-2-fluoro-pyridin-3-yl)-2-(4-dimethylamino-phenyl)-ethanone (890 mg, 2.64 mmol), ethanol (100 ml), and anhydrous hydrazine (0.4 ml, 12.74 mmol) were combined and stirred for 18 hours at room temperature. The reaction was diluted with water and the precipitate filtered and dried to obtain 500 mg (57%) of [4-(5-bromo-1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-phenyl]-dimethyl-amine. MS m/z 331.1+333.1 (M+H+).

reactant | 1-(5-Bromo-2-fluoro-pyridin-3-yl)-2-(4-dimethylamino-phenyl)-ethanone | 2.64 mmol, 890 mg | BrC=1C=C(C(=NC1)F)C(CC1=CC=C(C=C1)N(C)C)=O | C15H14BrFN2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrazine | 12.74 mmol, 0.4 ml | NN | H4N2
solvent | water | O | H2O
product | [4-(5-bromo-1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-phenyl]-dimethyl-amine | 500 mg, 57% | BrC=1C=C2C(=NC1)NN=C2CC2=CC=C(C=C2)N(C)C | C15H15BrN4
